US05300671
A solution of 4-[bis(2-chloroethyl)amino]-(L)-phenylalanine (150 mg) in formic acid (1.82 ml) and acetic anhydride (0.64 ml) is stirred at room temperature for 3 hours. The reaction mixture is concentrated to reduced volume under reduced pressure and partitioned between water (3 ml) and ethyl acetate (2×50 ml). The organic phase is dried over sodium sulphate and the solvent is evaporated under vacuum, to give N-formyl-4-[bis(2-chloroethyl)amino]-(L)-phenylalanine (160 mg) as a yellow foam, [α]D =+67° (C=2, ethanol).

reactant | 4-[bis(2-chloroethyl)amino]-(L)-phenylalanine | 150 mg | ClCCN(C1=CC=C(C[C@H](N)C(=O)O)C=C1)CCCl | C13H18Cl2N2O2
reactant | formic acid | 1.82 ml | C(=O)O | CH2O2
solvent | acetic anhydride | 0.64 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-formyl-4-[bis(2-chloroethyl)amino]-(L)-phenylalanine | 160 mg | C(=O)N[C@@H](CC1=CC=C(C=C1)N(CCCl)CCCl)C(=O)O | C14H18Cl2N2O3
